US08975400B2
3-(4-(((5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)-2-(trifluoromethyl)phenoxy)benzonitrile
To a solution of tert-butyl 7-((4-(3-cyanophenoxy)-3-(trifluoromethyl)benzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate (27 mg, 0.051 mmol) in DMF (2 mL) was added silica gel. The reaction mixture was sealed in a microwave vial and irradiated with a microwave at 120° C. for 4 h, and then diluted with EtOAc and water. Separated organic portions were dried over anhydrous Na2SO4, filtered and concentrated. Purification via MDAP afforded the title product (3 mg).

reactant | tert-butyl 7-((4-(3-cyanophenoxy)-3-(trifluoromethyl)benzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate | 0.051 mmol, 27 mg | C(#N)C=1C=C(OC2=C(C=C(COC=3C=C4N(C(N3)=O)CCN4C(=O)OC(C)(C)C)C=C2)C(F)(F)F)C=CC1 | C26H23F3N4O5
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 3-(4-(((5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)-2-(trifluoromethyl)phenoxy)benzonitrile | 3 mg | O=C1N=C(C=C2N1CCN2)OCC2=CC(=C(OC=1C=C(C#N)C=CC1)C=C2)C(F)(F)F | C21H15F3N4O3
